US09422285B2
rac-N-[2-Amino-4-(methylsulphanyl)butyl]-7-[(2,6-difluorobenzyl)oxy]-2,5-dimethylpyrazolo[1,5-a]pyridine-3-carboxamide
A mixture of 70 mg of 7-[(2,6-difluorobenzyl)oxy]-2,5-dimethylpyrazolo[1,5-a]pyridine-3-carboxylic acid (75% purity, 0.118 mmol) from Example 4A, 66 mg of HATU (0.174 mmol) and 0.083 ml (0.474 mmol) of N,N-diisopropylethylamine in 0.7 ml of DMF was stirred at RT for 10 min. This reaction mixture was added to a solution of 53 mg (0.236 mmol) of rac-4-(methylsulphanyl)butane-1,2-diamine dihydrochloride in 0.14 ml of DMF at 0° C. and the mixture was stirred for 60 min. The reaction mixture was admixed with water and acetonitrile and purified by means of preparative HPLC (RP18 column, eluent:acetonitrile/water gradient with addition of 0.05% formic acid). 40 mg of the target compound were obtained (54% of theory).

reactant | 7-[(2,6-difluorobenzyl)oxy]-2,5-dimethylpyrazolo[1,5-a]pyridine-3-carboxylic acid | 0.118 mmol, 70 mg | FC1=C(COC2=CC(=CC=3N2N=C(C3C(=O)O)C)C)C(=CC=C1)F | C17H14F2N2O3
reactant | HATU | 0.174 mmol, 66 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | N,N-diisopropylethylamine | 0.474 mmol, 0.083 ml | C(C)(C)N(C(C)C)CC | C8H19N
reactant | rac-4-(methylsulphanyl)butane-1,2-diamine dihydrochloride | 0.236 mmol, 53 mg | Cl.Cl.CSCCC(CN)N
solvent | DMF | 0.7 ml | CN(C)C=O | C3H7NO
solvent | DMF | 0.14 ml | CN(C)C=O | C3H7NO
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
product | rac-N-[2-Amino-4-(methylsulphanyl)butyl]-7-[(2,6-difluorobenzyl)oxy]-2,5-dimethylpyrazolo[1,5-a]pyridine-3-carboxamide | 40 mg | NC(CNC(=O)C=1C(=NN2C1C=C(C=C2OCC2=C(C=CC=C2F)F)C)C)CCSC | C22H26F2N4O2S
